US07326732B2
(i) 2-(3-Nitro-benzylidene)-butyric acid ethyl ester
2-(3-Nitro-benzylidene)-butyric acid (500 mg, 2.27 mmol) was esterified by dissolving in EtOH (12.5 ml), adding conc HCl (0.25 ml) and heating to reflux for 8 h. The solvents were evaporated in vacuo to give the title compound.

reactant | 2-(3-Nitro-benzylidene)-butyric acid | 2.27 mmol, 500 mg | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)CC)C=CC1 | C11H11NO4
reactant | HCl | 0.25 ml | Cl | ClH
reactant | EtOH | 12.5 ml | CCO | C2H6O
product | 2-(3-Nitro-benzylidene)-butyric acid ethyl ester | C(C)OC(C(CC)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C13H15NO4
